US04146625
To a solution of 2.3 g of 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid in 25 ml of pyridine, at 0°, was added 1.1 ml of thionyl chloride. The resulting slurry was stirred at room temperature for 0.5 hour and subsequently treated with 5 ml of methanol. After 1 hour, the reaction mixture was poured into 200 ml of water; the resulting white solid was filtered, washed with water, and dried to give 2.0 g of 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, methyl ester, m.p. 168°-171°.

reactant | 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid | 2.3 g | FC=1C=C2C(C(=CN(C2=C(C1)C)CC(F)(F)F)C(=O)O)=O | C13H9F4NO3
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 5 ml | CO | CH4O
reactant | water | 200 ml | O | H2O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, methyl ester | 2.0 g | FC=1C=C2C(C(=CN(C2=C(C1)C)CC(F)(F)F)C(=O)OC)=O | C14H11F4NO3
